US06734200B1
5-(t-butoxycarbonylamino)-1,2,4-thiadiazole
5-Amino-1,2,4-thiadiazole hydrochloride (1.38 g, 0.01 M) was suspended by stirring in dry dichloromethane (50 ml), triethylamine (1.21 g, 0.012 M) added, and the mixture stirred at ambient temperature for 20 minutes to give a solution. Di-t-butyl dicarbonate (4.8 g, 0.022 M) was added and the mixture stirred at ambient temperature for 18 hours, then evaporated to dryness. The residue was purified by chromatography on a 20 g silica Mega Bond Elut® column, eluting with a gradient from 0% to 10% diethyl ether in dichloromethane. Relevant fractions were combined to give the desired product (1.05 g). NMR (DMSO d6) δ: 1.50 (s, 9H); 8.33 (s, 1H); 12.31 (br, 1H). MS (ESP): 202 (MH+) for C7H11N3O2S

reactant | 5-Amino-1,2,4-thiadiazole hydrochloride | 0.01 M, 1.38 g | Cl.NC1=NC=NS1
reactant | triethylamine | 0.012 M, 1.21 g | C(C)N(CC)CC | C6H15N
reactant | Di-t-butyl dicarbonate | 0.022 M, 4.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 5-(t-butoxycarbonylamino)-1,2,4-thiadiazole | 1.05 g | C(C)(C)(C)OC(=O)NC1=NC=NS1 | C7H11N3O2S
